US08420642B2
3-(2-Methoxy-ethoxy)-5-(pyridine-3-yloxy)-pyridine-2-ylamine (0.48 mmol) is dissolved in THF (7 ml) and 1,1′-thiocarbonyldiimidazole (4 eq.) is added. The reaction solution is stirred 2 days. 32% NH4OH (20 eq.) is added and stirred 4 hours at room temperature. The solved is removed in vacuo and water (150 ml) is added and extracted with dichloromethane. The combined organic layers are washed with brine and dried over MgSO4. The solvent is removed in vacuo. [3-(2-Methoxy-ethoxy)-5-(pyridine-3-yloxy)-pyridine-2-yl]-thiourea is obtained as yellow solid in a yield of 69%. HPLC (method C): 1.15 min; LC-MS (method A): 0.9 min, 321.15 (MH+).

reactant | 3-(2-Methoxy-ethoxy)-5-(pyridine-3-yloxy)-pyridine-2-ylamine | 0.48 mmol | COCCOC=1C(=NC=C(C1)OC=1C=NC=CC1)N | C13H15N3O3
reactant | 1,1′-thiocarbonyldiimidazole | 4 eq. | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | NH4OH | 20 eq. | [NH4+].[OH-]
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | [3-(2-Methoxy-ethoxy)-5-(pyridine-3-yloxy)-pyridine-2-yl]-thiourea | yield of 69% | COCCOC=1C(=NC=C(C1)OC=1C=NC=CC1)NC(=S)N | C14H16N4O3S
